US07728155B2
To a solution of (±)-3-[4-(benzyloxy)-2,3-dihydro-1H-inden-5-yl]propane-1,2-diol (9.10 g, 30.5 mmol) in N,N-dimethylformamide (150 mL) was added tert-butyldimethylsilyl chloride (4.83 g, 32.04 mmol) followed by imidazole (2.49 g, 36.60 mmol) and the reaction mixture was allowed to stir at room temperature overnight. The reaction mixture was quenched with methanol (5 mL) and diluted with diethyl ether (500 mL). The organic layer was washed with aqueous hydrogen chloride (200 mL, 0.5 N), water (3×200 mL), saturated aqueous sodium chloride (200 mL), dried (magnesium sulfate) and the solvent was removed in vacuo to provide a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:4) gave 9.20 g (73%) of (±)-1-[4-(benzyloxy)-2,3-dihydro-1H-inden-5-yl]-3-{[tert-butyl(dimethyl)silyl]oxy}propan-2-ol as a colorless oil. Rf=0.37 (silica, ethyl acetate:hexanes 1:4); Anal. calcd. for C25H36O3Si: C, 72.77; H, 8.79. Found: C, 72.3; H, 8.48.

reactant | (±)-3-[4-(benzyloxy)-2,3-dihydro-1H-inden-5-yl]propane-1,2-diol | 30.5 mmol, 9.10 g | C(C1=CC=CC=C1)OC1=C2CCCC2=CC=C1CC(CO)O | C19H22O3
reactant | tert-butyldimethylsilyl chloride | 32.04 mmol, 4.83 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 36.60 mmol, 2.49 g | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | (±)-1-[4-(benzyloxy)-2,3-dihydro-1H-inden-5-yl]-3-{[tert-butyl(dimethyl)silyl]oxy}propan-2-ol | 9.20 g, 73% | C(C1=CC=CC=C1)OC1=C2CCCC2=CC=C1CC(CO[Si](C)(C)C(C)(C)C)O | C25H36O3Si
